US06002008
4-(4-Hydroxy-3,5-dimethyl-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 286, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 10 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 164.6 mg (1.2 mmol) of 4-amino-2,5-dimethylphenol to give 232.9 mg (66.7%) of the product as a light brown solid, m.p. 234-236° C., mass (electrospray, m/e): M+H 349.9.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 4-amino-2,5-dimethylphenol | 1.2 mmol, 164.6 mg | NC1=CC(=C(C=C1C)O)C | C8H11NO
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-(4-Hydroxy-3,5-dimethyl-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 232.9 mg, 66.7% | OC1=C(C=C(C=C1C)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N)C | C20H19N3O3
